US04595532
Ethyl N-(β-chloropivaloyl)-3-aminocrotonate was prepared in 42% yield from β-chloropivaloyl chloride and ethyl 3-aminocrotonate by the procedure used in Example 5. M.P. 76°-77.5° C. (after recrystallization from hexanes); IR (KBr) 1705, 1675 cm-1 ; 'HNMR δ 1.06-1.23 (9H, m), 2.3 (3H, s), 3.6 (2H, s), 4.0-4.23 (2H, q) 6.7 (1H, s), 6.8-7.1 (1H, br).

reactant | β-chloropivaloyl chloride | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
product | Ethyl N-(β-chloropivaloyl)-3-aminocrotonate | 42% yield | ClCC(C(=O)N\C(=C/C(=O)OCC)\C)(C)C | C11H18ClNO3
